US05116874
N-{[(3,4-dichlorophenyl)amino]carbonyl}-2,3-dihydro-1H-indene-5-sulfonamide
A solution of 2.67 g of 3,4-dichloroaniline in 10 ml of toluene was added to 3.87 g of 2,3-dihydro5-indenylsulfonylisocyanate in 20 ml of toluene. After stirring 7 hours, the resulting precipitate was recovered by filtration, washed with toluene and dried providing 5.38 g of the title product, m.p. 155.5°-158° C.

reactant | 3,4-dichloroaniline | 2.67 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2,3-dihydro5-indenylsulfonylisocyanate | 3.87 g | C1CCC2=CC(=CC=C12)S(=O)(=O)N=C=O | C10H9NO3S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{[(3,4-dichlorophenyl)amino]carbonyl}-2,3-dihydro-1H-indene-5-sulfonamide | 5.38 g | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C=1C=C2CCCC2=CC1 | C16H14Cl2N2O3S
